2188-04-13 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Female First Name (un) 231**]: - 1lt, exudative on prelim results
   ppd placed, need to be read on monday
   TTE- minimal pericardial fluid (prelim)
   HR in 150s, a flutter, metoprolol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-4-13**] 01:00 AM
   Morphine Sulfate - [**2188-4-13**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-13**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (89 - 104) bpm
   BP: 119/49(66) {92/41(50) - 129/69(82)} mmHg
   RR: 16 (13 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 75.6 kg
                  Total In:
                                                                  1,040 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,104 mL
                                                                    250 mL
   Urine:
                                                                    900 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                  1,204 mL
   Balance:
                                                                 -1,064 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVD is up to angle of jaw.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB anteriorly.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   212 K/uL
   10.5 g/dL
   103 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   11 mg/dL
   99 mEq/L
   133 mEq/L
   32.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2188-4-12**]  01:05 AM
                             [**2188-4-12**]  03:04 AM
                             [**2188-4-13**]  04:21 AM
   WBC
   8.1
   Hct
   35.8
   32.2
   Plt
   212
   Cr
   0.7
   0.9
   Glucose
   147
   103
   Other labs: PT / PTT / INR:14.8/24.2/1.3, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   55yo F with h/o recurrent metastatic uterine CA admitted with
   pericardial effusion and tamponade s/p pericardial window.
   .
   #. Pericardial Effusion: likely maligant pericardial effusion given the
   cancer hx. s/p pericardial window and drain placement. 500 cc of bloody
   fluid removed. no recent h/o URI. no previous effusions
   - NSAIDs for pain control
   - monitor blood pressure. bolus with NS if SBP <100
   - echo in AM to re-eval effusion
   - f/u fluid cytology, culture
   .
   #Tachycardia: looks like atrial tach vs aflutter. reasons for the pt to
   be tachycardic include pain, dehydration. no fever.
   -pain control
   -give IV fluids
   -metoprolol IV prn
   .
   #. Pleural Effusion:
   - monitor satts
   .
   #. Uterine CA:
   - consider Onc c/s in AM
   .
   #. Hyponatremia: Specimen was hemolyzed, however, concern for SIADH in
   this patient with metastatic CA.
   - Will recheck lytes including sodium if still hyponatremic will check
   urine studies including Osm to workup SIADH.
   .
   # PUMP: nomral EF
   .
   # CORONARIES: No h/o coronary disease
   .
   # RHYTHM: NSR
   - Will monitor on tele.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-4-12**] 03:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-13 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Female First Name (un) 231**]: - 1lt, exudative on prelim results
   ppd placed, need to be read on monday
   TTE- minimal pericardial fluid (prelim)
   HR in 150s, a flutter, metoprolol,500cc ivf
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-4-13**] 01:00 AM
   Morphine Sulfate - [**2188-4-13**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-13**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (89 - 104) bpm
   BP: 119/49(66) {92/41(50) - 129/69(82)} mmHg
   RR: 16 (13 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 75.6 kg
                  Total In:
                                                                  1,040 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,104 mL
                                                                    250 mL
   Urine:
                                                                    900 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                  1,204 mL
   Balance:
                                                                 -1,064 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVD is up to angle of jaw.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB anteriorly.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   212 K/uL
   10.5 g/dL
   103 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   11 mg/dL
   99 mEq/L
   133 mEq/L
   32.2 %
   8.1 K/uL
         [image002.jpg]
                             [**2188-4-12**]  01:05 AM
                             [**2188-4-12**]  03:04 AM
                             [**2188-4-13**]  04:21 AM
   WBC
   8.1
   Hct
   35.8
   32.2
   Plt
   212
   Cr
   0.7
   0.9
   Glucose
   147
   103
   Other labs: PT / PTT / INR:14.8/24.2/1.3, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   ECHO
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   normal (LVEF>55%). Right ventricular chamber size and free wall motion
   are normal. There is a trivial/physiologic pericardial effusion.
   IMPRESSION: Tiny residual pericardial effusion
   Assessment and Plan
   55yo F with h/o recurrent metastatic uterine CA admitted with
   pericardial effusion and tamponade s/p pericardial window.
   # Pericardial Effusion: Exudative, most likely malignant pericardial
   effusion given h/o cancer hx. p 500 cc serosang fluids. No drainage
   overnight. Repeat echo with minimal effusion.  NSAIDs for pain control.
   Pull drain. F/u fluid cytology, culture
   #Tachycardia: A Flutter, likely ppt by hypovolemia. Improved with
   metoprolol and IVF.
   # Pleural Effusion: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] (1 lt out from left); exudative nature.
   Sats stable overnight. No PNTX. Cytology pnd. Consider doing other side
   today.
   # Uterine CA: Onc agrees with plan, o/p palliative chemo
   # PUMP: nomral EF
   # CORONARIES: No h/o coronary disease
   # RHYTHM: NSR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-4-12**] 03:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-04-13 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Female First Name (un) 231**]: - 1lt, exudative on prelim results
   ppd placed, need to be read on monday
   TTE- minimal pericardial fluid (prelim)
   HR in 150s, a flutter, metoprolol,500cc ivf
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-4-13**] 01:00 AM
   Morphine Sulfate - [**2188-4-13**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-13**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (89 - 104) bpm
   BP: 119/49(66) {92/41(50) - 129/69(82)} mmHg
   RR: 16 (13 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 75.6 kg
                  Total In:
                                                                  1,040 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,104 mL
                                                                    250 mL
   Urine:
                                                                    900 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                  1,204 mL
   Balance:
                                                                 -1,064 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVD is up to angle of jaw.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB anteriorly.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   212 K/uL
   10.5 g/dL
   103 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   11 mg/dL
   99 mEq/L
   133 mEq/L
   32.2 %
   8.1 K/uL
         [image002.jpg]
                             [**2188-4-12**]  01:05 AM
                             [**2188-4-12**]  03:04 AM
                             [**2188-4-13**]  04:21 AM
   WBC
   8.1
   Hct
   35.8
   32.2
   Plt
   212
   Cr
   0.7
   0.9
   Glucose
   147
   103
   Other labs: PT / PTT / INR:14.8/24.2/1.3, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   ECHO
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   normal (LVEF>55%). Right ventricular chamber size and free wall motion
   are normal. There is a trivial/physiologic pericardial effusion.
   IMPRESSION: Tiny residual pericardial effusion
   Assessment and Plan
   55yo F with h/o recurrent metastatic uterine CA admitted with
   pericardial effusion and tamponade s/p pericardial drain.
   # Pericardial Effusion: Exudative, most likely malignant pericardial
   effusion given h/o cancer hx. p 500 cc serosang fluids. No additional
   drainage overnight. Repeat echo with minimal effusion.
   - NSAIDs for pain control.
   - Pull drain today.
   - F/u fluid cytology, culture
   #Tachycardia: A Flutter, likely ppt by hypovolemia. Improved with
   metoprolol and IVF.
   - Monitor on tele once pericardial drain pulled
   - Start metoprolol 12.5mg [**Hospital1 **]
   # Pleural Effusion: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] (1 lt out from left); exudative nature.
   Sats stable overnight. No PNTX.
   - Thoracentesis of right side today.
   - F/u cytology, culture
   # Uterine CA: Onc agrees with plan, o/p palliative chemo
   # PUMP: normal EF (55%) with trival effusion
   # CORONARIES: No h/o coronary disease
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-4-12**] 03:42 AM
   Prophylaxis:
   DVT:  heparin sc tid
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   Full Code
   Disposition:  CCU

2188-04-13 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Female First Name (un) 231**]: - 1lt, exudative on prelim results
   ppd placed, need to be read on monday
   TTE- minimal pericardial fluid (prelim)
   HR in 150s, a flutter, metoprolol,500cc ivf
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-4-13**] 01:00 AM
   Morphine Sulfate - [**2188-4-13**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-13**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (89 - 104) bpm
   BP: 119/49(66) {92/41(50) - 129/69(82)} mmHg
   RR: 16 (13 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 75.6 kg
                  Total In:
                                                                  1,040 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,104 mL
                                                                    250 mL
   Urine:
                                                                    900 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                  1,204 mL
   Balance:
                                                                 -1,064 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVD is up to angle of jaw.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB anteriorly.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   212 K/uL
   10.5 g/dL
   103 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   11 mg/dL
   99 mEq/L
   133 mEq/L
   32.2 %
   8.1 K/uL
         [image002.jpg]
                             [**2188-4-12**]  01:05 AM
                             [**2188-4-12**]  03:04 AM
                             [**2188-4-13**]  04:21 AM
   WBC
   8.1
   Hct
   35.8
   32.2
   Plt
   212
   Cr
   0.7
   0.9
   Glucose
   147
   103
   Other labs: PT / PTT / INR:14.8/24.2/1.3, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   ECHO
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   normal (LVEF>55%). Right ventricular chamber size and free wall motion
   are normal. There is a trivial/physiologic pericardial effusion.
   IMPRESSION: Tiny residual pericardial effusion
   Assessment and Plan
   55yo F with h/o recurrent metastatic uterine CA admitted with
   pericardial effusion and tamponade s/p pericardial drain.
   # Pericardial Effusion: Exudative, most likely malignant pericardial
   effusion given h/o cancer hx. p 500 cc serosang fluids. No additional
   drainage overnight. Repeat echo with minimal effusion.
   - NSAIDs for pain control.
   - Pull drain today.
   - F/u fluid cytology, culture
   #Tachycardia: A Flutter, likely ppt by hypovolemia. Improved with
   metoprolol and IVF.
   - Monitor on tele once pericardial drain pulled
   - Start metoprolol 12.5mg [**Hospital1 **]
   # Pleural Effusion: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] (1 lt out from left); exudative nature.
   Sats stable overnight. No PNTX.
   - Thoracentesis of right side today.
   - F/u cytology, culture
   # Uterine CA: Onc agrees with plan, o/p palliative chemo
   # PUMP: normal EF (55%) with trival effusion
   # CORONARIES: No h/o coronary disease
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2188-4-12**] 03:42 AM
   Prophylaxis:
   DVT:  heparin sc tid
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   Full Code
   Disposition:  CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU rounds this
   morning.  I agree with Dr. [**Last Name (STitle) 3146**]
s H+P, A+P.  Improved s/p left
   thoracentesis yesterday.  Exam and CXR consistent with persistent right
   pleural effusion.  RA sats in low 90
s.  Tachycardia with minimal
   exertion.  We plan right sided thoracentesis today.  Will remove
   pericardial drain.  Rest of plan as above.  ICU care secondary to
   tamponade, pericardial drain.  Total time on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2363**], MD
   on:[**2188-4-13**] 10:47 ------